US05013477
6.2 g of 2-[2-[trans-4-(trans-4-methoxycyclohexyl)cyclohexyl]ethyl]-1,3-dioxolane were treated with 100 ml of water, 50 ml of glacial acetic acid and 20 ml of dioxan while gassing with nitrogen. The mixture was stirred at 100° C. (bath temperature) for 1.5 hours, then neutralized with dilute sodium hydrogen carbonate solution and extracted three times with diethyl ether. The combined ether phases were washed once with water and twice with dilute sodium hydrogen carbonate solution, dried over magnesium sulfate, filtered and evaporated. Recrystallization of the crude aldehyde obtained (4.34 g) from 150 ml of petroleum ether at -20° C. gave 2.8 g of 3-[trans-4-(trans-4-methoxycyclohexyl)cyclohexyl]propionaldehyde in a purity of 96%; m.p. 36° C.

reactant | 2-[2-[trans-4-(trans-4-methoxycyclohexyl)cyclohexyl]ethyl]-1,3-dioxolane | 6.2 g | CO[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC1OCCO1 | C18H32O3
reactant | water | 100 ml | O | H2O
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-[trans-4-(trans-4-methoxycyclohexyl)cyclohexyl]propionaldehyde | 2.8 g | CO[C@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)CCC=O | C16H28O2
